US06362177B1
3-Carbamoyl-1-(4-chlorobenzyl)piperidine (3.80 g, 15 mmol) was dissolved in THF (30 mL) and 1 M BH3-THF (9.4 mL) was added to the solution. The reaction mixture was stirred at 70° C. for 15 h. After the mixture was cooled to 0° C., 2 N aqueous HCl solution (50 mL) was added and the mixture was stirred at room temperature for additional 3 h, basicified with 4 N aqueous NaOH solution, and extracted with ethyl acetate (100 mL×3). The combined extracts were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. Column chromatography (SiO2, ethyl acetate/EtOH/Et3N=80/15/5) afforded 3-(aminomethyl)-1-(4-chlorobenzyl)piperidine (2.05 g, 55%): 1H NMR (CDCl3, 400 MHz) δ1.00-1.09 (m, 1H), 1.50-1.87 (m, 7H), 1.97-2.06 (m, 1H), 2.65-2.77 (m, 2H), 3.16-3.26 (m, 2H), 3.32 (s, 2H), 3.40. (d, J=13.3 Hz, 1H), 3.49 (d, J=13.3 Hz, 1H), 7.22-7.33 (m, 5H).

reactant | 3-Carbamoyl-1-(4-chlorobenzyl)piperidine | 15 mmol, 3.80 g | C(N)(=O)C1CN(CCC1)CC1=CC=C(C=C1)Cl | C13H17ClN2O
reactant | BH3-THF | 1 M, 9.4 mL | B.C1CCOC1
reactant | HCl | 2 N, 50 mL | Cl | ClH
reactant | NaOH | 4 N | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(aminomethyl)-1-(4-chlorobenzyl)piperidine | 2.05 g, 55% | NCC1CN(CCC1)CC1=CC=C(C=C1)Cl | C13H19ClN2
